US07557213B2
Preparation of 3-(3,4-Dimethyl-benzoyl)-1-(6-oxazol-2-yl-pyridin-2-ylmethyl)-1H-quinolin-4-one (4 mm)
90 mg (0.2 mmol) of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one, 143 mg (0.40 mmol) of 2-tri-t-butylstannyloxazole, 23 mg (0.02 mmol) of tetrakis(triphenylphosphine)palladium were dissolved in 2 mL of anhydrous tetrahydrofuran. The resultant mixture was stirred at 75° C. for 18 h. The reaction solution was quenched by pouring into a container having 20 mL of water. The crude product precipitated out of solution and was isolated by filtration. The crude product was purified by flash chromatography to yield 16 mg of 4nn as a colorless solid: LC-MSD, m/z for C27H21N3O3, [M+H]+=436.5, [M+2H]+=437.5; Reverse phase HPLC (gradient acetonitrile 0.1% TFA 20-95% in 4 min) retention time=2.136 min; 1H NMR (400 MHz, CDCl3/HCl): δ 2.35 (d, 6H), 5.62 (s, 2H), 7.06 (d, 1H), 7.19 (d, 1H), 7.35-7.44 (m, 3H), 7.54-7.62 (m, 2H), 7.66 (s, 1H), 7.78 (t, 1H), 7.84 (d, 1H), 8.08 (d, 1H), 8.34 (s, 1H), 8.48 (d, 1H).

reactant | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one | 0.2 mmol, 90 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(C1=CC(=C(C=C1)C)C)=O | C24H19BrN2O2
reactant | 2-tri-t-butylstannyloxazole | 0.40 mmol, 143 mg | C(C)(C)(C)[Sn](C=1OC=CN1)(C(C)(C)C)C(C)(C)C
reactant | acetonitrile | C(C)#N | C2H3N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3,4-Dimethyl-benzoyl)-1-(6-oxazol-2-yl-pyridin-2-ylmethyl)-1H-quinolin-4-one | CC=1C=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC2=NC(=CC=C2)C=2OC=CN2)C=CC1C | C27H21N3O3
